US05298627
To a stirred -10° C. solution of 1-acetylpiperidine (127 g, 1.0 mol) in tetrahydrofuran (1.0 L) is slowly added a solution of lithium diisopropylamide in tetrahydrofuran-heptane (0.5 L of 2M) while maintaining the temperature between -40° C. to -50° C., and the mixture is stirred at -20° C. to -30° C. for 30 minutes. (R)-4-cyano-3-hydroxybutyric acid, ethyl ester (Brower, supra) (40 g, 0.25 mol) as a solution in 200 mL of tetrahydrofuran is then added to the previous mixture. The reaction mixture is stirred for 30 minutes at -25° C. to -20° C., and transferred to a 2.2N aqueous hydrochloric acid solution (1 L). The aqueous layer is extracted with 500 mL of ethyl acetate, the aqueous layer is separated and extracted with 100 mL of ethyl acetate, the extracts are combined and concentrated in vacuo to afford (R)-ε-hydroxy-α,γ-dioxo-1-piperidineheptanenitrile as an oil.

reactant | 1-acetylpiperidine | 1.0 mol, 127 g | C(C)(=O)N1CCCCC1 | C7H13NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (R)-4-cyano-3-hydroxybutyric acid, ethyl ester | 0.25 mol, 40 g | C(#N)C[C@H](CC(=O)OCC)O | C7H11NO3
reactant | hydrochloric acid | 2.2N, 1 L | Cl | ClH
reactant | tetrahydrofuran | 1.0 L | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane | 2M, 0.5 L | O1CCCC1.CCCCCCC
product | (R)-ε-hydroxy-α,γ-dioxo-1-piperidineheptanenitrile | O[C@H](CC(CC(C#N)=O)=O)CN1CCCCC1 | C12H18N2O3
